US09278950B2
Step 9. 4-{(3S)-3-[(tert-Butoxycarbonyl)amino]piperidin-1-yl}-3-nitro-6,7-dihydro-5H-cyclopenta[b]pyridin-7-yl acetate
A mixture of acetic anhydride (0.90 g, 8.8 mmol) and tert-butyl [(3S)-1-(3-nitro-1-oxido-6,7-dihydro-5H-cyclopenta[b]pyridin-4-yl)piperidin-3-yl]carbamate (270.0 mg, 0.7135 mmol) was sealed and heated at 90° C. for 1 h, then allowed to cool. After cooling, the excess acetic anhydride was removed under reduced pressure, the residue was dissolved in DCM, then poured into ice cold Na2CO3. The mixture was extracted twice with DCM, the combined extracts were dried, filtered and concentrated under reduced pressure to give the crude product, which was purified by preparative LCMS (pH=10 method; XBridge™ preparative C18 5 μm OBD™ column, 30×10 mm, 60 mL/min., eluting with a gradient of MeCN and water with NH4OH) to provide the sub-title compound as yellow powder (65 mg, 22%). LCMS calc. for C20H29N4O6 (M+H)+: m/z=421.4. Found: 421.3.

reactant | acetic anhydride | 8.8 mmol, 0.90 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | tert-butyl [(3S)-1-(3-nitro-1-oxido-6,7-dihydro-5H-cyclopenta[b]pyridin-4-yl)piperidin-3-yl]carbamate | 0.7135 mmol, 270.0 mg | [N+](=O)([O-])C=1C(=C2C(=[N+](C1)[O-])CCC2)N2C[C@H](CCC2)NC(OC(C)(C)C)=O | C18H26N4O5
product | 4-{(3S)-3-[(tert-Butoxycarbonyl)amino]piperidin-1-yl}-3-nitro-6,7-dihydro-5H-cyclopenta[b]pyridin-7-yl acetate | 65 mg, 22% | C(C)(=O)OC1CCC=2C1=NC=C(C2N2C[C@H](CCC2)NC(=O)OC(C)(C)C)[N+](=O)[O-] | C20H28N4O6
